US07897607B2
4-Chloro-5-mesityl-7-methyl-N,N-dipropyl-7H-pyrrolo[2,3-d]-pyrimidin-2-amine
A mixture of 2-amino-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (142 mg, 0.50 mmol), N,N-diethylaniline (68 mg, 0.50 mmol), and phosphorus oxychloride (10 ml) was heated at 80° C. with stirring for 4 hours. The dark orange solution was allowed to cool to room temperature and concentrated in vacuo. Water (10 ml) was then added to the residue at 0° C. with vigorous stirring. Concentrated aqueous ammonium hydroxide was added and extracted with ethyl acetate (100 ml×2). The extracts were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. To a mixture of the residue and dimethylformamide (5 ml) was added sodium hydride (60% in oil, 50 mg, 1.25 mmol) at 0° C. and stirred for 0.5 hour. After stirring at room temperature for 0.5 hour, to the mixture was added a solution of n-PrI (213 mg, 1.25 mmol) and dimethylformamide (2 ml) at 0° C. and stirred for 0.5 hour. After stirring at room temperature for 1 hour, the mixture was diluted with water (20 ml) and extracted with ethyl acetate (50 ml×2). The extracts were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (20:1) to give 59 mg (31%) of the title compound.

reactant | 2-amino-5-mesityl-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 0.50 mmol, 142 mg | NC=1NC(C2=C(N1)N(C=C2C2=C(C=C(C=C2C)C)C)C)=O | C16H18N4O
reactant | N,N-diethylaniline | 0.50 mmol, 68 mg | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | n-PrI | 1.25 mmol, 213 mg | C(CC)I | C3H7I
solvent | water | 20 ml | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-5-mesityl-7-methyl-N,N-dipropyl-7H-pyrrolo[2,3-d]-pyrimidin-2-amine | 59 mg, 31% | ClC=1C2=C(N=C(N1)N(CCC)CCC)N(C=C2C2=C(C=C(C=C2C)C)C)C | C22H29ClN4
